US07741323B2
5,6-Methylenedioxy-3-phenyl-1H-indene-2-carboxylate ethyl ester (3 g, 9.73 mmol) was dissolved in 1,4-dioxane. Selenium dioxide (10.8 g, 97.3 mmol) was added thereto and the reaction mixture was refluxed while stirring for 1 day, followed by cooling. The solution obtained after filtering residual solid selenium dioxide was combined with 1M sodium bicarbonate, and extracted with ether/water. The extract was dried over anhydrous magnesium sulfate, concentrated, and the resulting residue was purified by column chromatography to obtain 5,6-methylenedioxy-1-oxo-3-phenyl-1H-indene-2-carboxylate ethyl ester (2.18 g, yield 70%).

reactant | 5,6-Methylenedioxy-3-phenyl-1H-indene-2-carboxylate ethyl ester | 9.73 mmol, 3 g | C(C)OC(=O)C=1CC2=CC3=C(C=C2C1C1=CC=CC=C1)OCO3 | C19H16O4
reactant | Selenium dioxide | 97.3 mmol, 10.8 g | [Se](=O)=O | O2Se
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | 5,6-methylenedioxy-1-oxo-3-phenyl-1H-indene-2-carboxylate ethyl ester | 2.18 g, yield 70% | C(C)OC(=O)C=1C(C2=CC3=C(C=C2C1C1=CC=CC=C1)OCO3)=O | C19H14O5
